US05976759
Using 10.0 g of poly(p-isopropoxycarbonyloxystyrene/p-hydroxystyrene) according to (3) above and 0.8 g of ethylvinyl ether, reaction and after-treatments were carried out according to (3) of Preparation Example 1 to obtain 8.9 g of poly(p-1-ethoxyethoxystyrene/p-hydroxystyrene/p-isopropoxycarbonyloxystyrene) as white powdery crystal. P-1-ethoxyethoxystyrene unit/p-hydroxystyrene unit/p-isopropoxycarbonyloxystyrene unit molar ratio in the polymer≈10:70:20 (1H NMR). Mw≈8,300; Mw/Mn=1.60 (GPC with polystyrene calibration).

reactant | p-isopropoxycarbonyloxystyrene p-hydroxystyrene | C(C)(C)OC(=O)OC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1
reactant | ethylvinyl ether | 0.8 g | C(C)OC=C | C4H8O
product | p-1-ethoxyethoxystyrene p-hydroxystyrene p-isopropoxycarbonyloxystyrene | C(C)OCCOC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1.C(C)(C)OC(=O)OC1=CC=C(C=C)C=C1 | InChI=1S/C12H14O3.C12H16O2.C8H8O/c1-4-10-5-7-11(8-6-10)15-12(13)14-9(2)3;1-3-11-5-7-12(8-6-11)14-10-9-13-4-2;1-2-7-3-5-8(9)6-4-7/h4-9H,1H2,2-3H3;3,5-8H,1,4,9-10H2,2H3;2-6,9H,1H2
